US04340598
In 200 ml of methanol was dissolved 2.4 g of 1-benzyl-2-phenylimidazole-5-acetic acid monohydrate, and 1 ml of concentrated sulfuric acid was added to the solution. The mixture was boiled for 4 hours. The reaction solution was evaporated to dryness under reduced pressure, and 50 ml of water containing 3.4 g of sodium bicarbonate and 50 ml of chloroform were added to the residue for shaking. The chloroform layer was washed with water and evaporated to dryness under reduced pressure. The residue was dissolved in a small amount of ether, and hexane was added to the solution, thereby yielding 2 g of methyl 1-benzyl-2-phenylimidazole-5-acetate as colorless crystals, m.p. 78°-79° C.

reactant | 1-benzyl-2-phenylimidazole-5-acetic acid monohydrate | 2.4 g | O.C(C1=CC=CC=C1)N1C(=NC=C1CC(=O)O)C1=CC=CC=C1
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 ml | CO | CH4O
product | methyl 1-benzyl-2-phenylimidazole-5-acetate | 2 g | C(C1=CC=CC=C1)N1C(=NC=C1CC(=O)OC)C1=CC=CC=C1 | C19H18N2O2
